US04695589
To a stirred mixture of 52.5 g. (0.253 mole) of 4-(4-methoxyphenyl)-1,1-dimethylbutyl alcohol, and 44.5 g. (0.685 mole) of powdered potassium cyanide in 200 ml. of n-butyl ether at 60° C. was added dropwise over 1 hour 80 ml. of concentrated sulfuric acid. The temperature was maintained at 60°-65° C. throughout the addition and stirring was continued at 50°-55° C. an additional hour after the addition was complete. The reaction mixture was then poured into 850 ml. of ice, made basic with 35% aqueous sodium hydroxide and extracted with ether. The ethereal extracts were evaporated to dryness and the residual oil heated under reflux 3 hours in 125 ml. of 12N hydrochloric acid. The resulting mixture was diluted with 300 ml. of water and washed with a mixture of ether and benzene. The aqueous layer was made basic with 35% aqueous sodium hydroxide and extracted with a mixture of ether and benzene. The organic layer was then extracted with 1N hydrochloric acid, the acidic aqueous layer made basic with 35% aqueous sodium hydroxide and extracted with an etherbenzene mixture. The extracts were dried over anhydrous sodium sulfate and evaporated to dryness in vacuo affording 12.2 g of 4-(4-methoxyphenyl)-1,1-dimethylbutylamine as a straw-colored oil.

reactant | 4-(4-methoxyphenyl)-1,1-dimethylbutyl alcohol | 0.253 mole | COC1=CC=C(C=C1)CCCC(C)(C)O | C13H20O2
reactant | potassium cyanide | 0.685 mole | [C-]#N.[K+]
reactant | n-butyl ether | C(CCC)OCCCC | C8H18O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(4-methoxyphenyl)-1,1-dimethylbutylamine | 12.2 g | COC1=CC=C(C=C1)CCCC(C)(C)N | C13H21NO
